US06121309
4,7-Dimethylbenzofuran-2-carbaldehyde
Under nitrogen atmosphere at -35° C., 18.4 ml of n-butyllithium (1.56M hexane solution) was added to 50 ml of a solution of 3.5 g of 4,7-dimethylbenzofuran in anhydrous tetrahydrofuran, and the resulting mixture was stirred for 15 minutes, followed by the dropwise addition thereto of 5.6 ml of N,N-dimethylformamide. The temperature of the resulting mixture was raised to room temperature, followed by the addition of ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The resulting crude crystal was washed with n-hexane to give 2.3 g of the title compound as a pale-yellow solid.

reactant | n-butyllithium | 1.56M, 18.4 ml | C(CCC)[Li]
reactant | 4,7-dimethylbenzofuran | 3.5 g | CC1=CC=C(C2=C1C=CO2)C | C10H10O
reactant | N,N-dimethylformamide | 5.6 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4,7-Dimethylbenzofuran-2-carbaldehyde | 2.3 g | CC1=CC=C(C2=C1C=C(O2)C=O)C | C11H10O2
